US05840732
ii) Synthesis of 3-benzyl-6-chloropyrimidine-2,4(1H,3H)-dione
To 16.8 ml of 50% ethanol, 78.7 ml (844 mmol) of phosphorus oxychloride was added dropwise, with stirring under ice cooling conditions. To this solution, 20.62 g (94.5 mmol) of 3-benzylpyrimidine-2,4,6(1H,3H)-trione was added portionwise. This mixture was stirred at 50° C. for 30 minutes and then at 100° C. for 90 minutes. After cooling, the reaction mixture was poured into ice water and stirred for 1 hour. The resulting precipitate was collected by filtration, washed with water and n-hexane and dried to yield 20.12 g (90.0%, white crystal) of the desired product.

reactant | phosphorus oxychloride | 844 mmol, 78.7 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 3-benzylpyrimidine-2,4,6(1H,3H)-trione | 94.5 mmol, 20.62 g | C(C1=CC=CC=C1)N1C(NC(CC1=O)=O)=O | C11H10N2O3
solvent | ethanol | 16.8 ml | C(C)O | C2H6O
product | 3-benzyl-6-chloropyrimidine-2,4(1H,3H)-dione | C(C1=CC=CC=C1)N1C(NC(=CC1=O)Cl)=O | C11H9ClN2O2
